US04426522
Into a 100 ml round bottomed flask fitted with a reflux condenser sealed with a calcium chloride tube and a magnetic stirrer, were placed 55 g of 2-chlorophenylacetyl chloride and 20 ml of dry benzene. Stirring was commenced and 1 g of 2-(4'-chlorobenzyl)-hexahydro-1,2,4-triazine-3,5-dione was added in one portion and the mixture was stirred and refluxed for 8 hours. The mixture was then cooled and the precipitated crystals were filtered off and recrystallized from isopropanol to yield 0.3 g of 1-(2'-chlorophenylacetyl)-2-(4'-chlorobenzyl)-hexahydro-1,2,4-triazine-3,5-dione; m.p. 224°.

reactant | 2-chlorophenylacetyl chloride | 55 g | ClC1=C(C=CC=C1)CC(=O)Cl | C8H6Cl2O
reactant | 2-(4'-chlorobenzyl)-hexahydro-1,2,4-triazine-3,5-dione | 1 g | ClC1=CC=C(CN2NCC(NC2=O)=O)C=C1 | C10H10ClN3O2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 1-(2'-chlorophenylacetyl)-2-(4'-chlorobenzyl)-hexahydro-1,2,4-triazine-3,5-dione | 0.3 g | ClC1=C(C=CC=C1)CC(=O)N1N(C(NC(C1)=O)=O)CC1=CC=C(C=C1)Cl | C18H15Cl2N3O3
